US07338959B2
N5-{2-[3-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 3-(2-methanesulfonyl-ethyl)-phenylamine (50 mg, 0.25 mmol) as a white solid (48 mg, 32%). 1H NMR (300 MHz, d6-DMSO) δ 9.08 (s, 1H), 7.73-7.77 (m, 2H), 7.58 (d, J=8.4 Hz, 1H), 7.44 (d, J=7.5 Hz, 2H), 7.29-7.34 (m, 2H), 7.12-7.23 (m, 4H), 7.05 (d, J=1.5 Hz, 1H), 6.79-6.84 (m, 2H), 5.59 (d, J=5.7 Hz, 1H), 5.14 (m, 1H), 3.60 (s, 3H), 3.41 (s, 3H), 3.32-3.41 (m, 2H), 2.90-2.96 (m, 5H), 1.53 (d, J=6.9 Hz, 3H). MS (ESI) m/z=556 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 3-(2-methanesulfonyl-ethyl)-phenylamine | 0.25 mmol, 50 mg | CS(=O)(=O)CCC=1C=C(C=CC1)N | C9H13NO2S
product | N5-{2-[3-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CCC=1C=C(C=CC1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | InChI=1S/C30H33N7O2S.ClH/c1-21(23-10-6-5-7-11-23)32-30-34-26-20-25(13-14-27(26)37(30)3)36(2)28-15-17-31-29(35-28)33-24-12-8-9-22(19-24)16-18-40(4,38)39;/h5-15,17,19-21H,16,18H2,1-4H3,(H,32,34)(H,31,33,35);1H
